US03950380
4-Phenyl-3-(4-pyridylethylamino)-5-sulfamylbenzoic acid
A solution of 3-amino-4-phenyl-5-sulfamylbenzoic acid (1.46 g), 4-vinylpyridine (1.0 ml) and acetic acid (0.5 ml) in methanol (7.5 ml) is refluxed for 5-6 hours. After cooling, the resulting solution is diluted with water (16 ml) to precipitate crude 4-phenyl-3-(4-pyridylethylamino)-5-sulfamylbenzoic acid, which is collected by filtration, washed with water and dried. After recrystallization twice from aqueous ethanol, the acid is obtained with a melting point of 216.5°-217.5° C.

reactant | 3-amino-4-phenyl-5-sulfamylbenzoic acid | 1.46 g | NC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)S(N)(=O)=O | C13H12N2O4S
reactant | 4-vinylpyridine | 1.0 ml | C(=C)C1=CC=NC=C1 | C7H7N
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 7.5 ml | CO | CH4O
solvent | water | 16 ml | O | H2O
product | 4-Phenyl-3-(4-pyridylethylamino)-5-sulfamylbenzoic acid | C1(=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)NCCC1=CC=NC=C1 | C20H19N3O4S
